US07238808B2
3-Bromo-N-(2-methoxy-ethyl)-benzenesulfonamide
Prepared by general procedure III from 3-bromobenzenesulfonyl chloride (5.0 g, 20 mmol) and 2-methoxyethyl amine (1.62 g, 22 mmol) to give the title compound (5.7 g, 99%) as light-yellow liquid. MS (ISP) 294.0 [(M+H)+].

reactant | 3-bromobenzenesulfonyl chloride | 20 mmol, 5.0 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 2-methoxyethyl amine | 22 mmol, 1.62 g | COCCN | C3H9NO
product | 3-Bromo-N-(2-methoxy-ethyl)-benzenesulfonamide | 5.7 g, 99% | BrC=1C=C(C=CC1)S(=O)(=O)NCCOC | C9H12BrNO3S
